US08871767B2
3-bromo-N-[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]benzamide
An 8-mL vial is charged with N-[5-(6-aminoimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide (0.097 g, 0.3 mmol), 3-bromobenzoyl chloride (0.059 mL, 0.45 mmol), pyridine (0.073 mL), and MeCN (1.0 mL). The mixture is stirred at room temperature for 16 hours, concentrated onto celite and purified by silica gel chromatography (0-100% 1:0.1 EtOAc:MeOH in CH2Cl2) to give the title compound (0.065 g). LCMS (m/z)=506.4 and 508.4 [M+H]+, tR=2.96 min.

reactant | N-[5-(6-aminoimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 0.3 mmol, 0.097 g | NC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H21N5O
reactant | 3-bromobenzoyl chloride | 0.45 mmol, 0.059 mL | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | pyridine | 0.073 mL | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 1.0 mL | CC#N | C2H3N
product | 3-bromo-N-[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]benzamide | 0.065 g | BrC=1C=C(C(=O)NC2=NN3C(C=C2)=NC(=C3)C3=CC(=C(C=C3)C)NC(C(C)(C)C)=O)C=CC1 | C25H24BrN5O2
